US07288541B2
Preparation of (S)-2-hydroxy-3,3-dimethylbutanoic Acid
To a solution of 30.0 g (0.229 mol) of L-tert-leucine in 345 mL of 1 N sulfuric acid, cooled to 0° C., was added over 2 h a solution of 23.7 g (0.343 mol) of sodium nitrite in 83 mL of water. The temperature was maintained below 5° C. during the addition, and the mixture was then refrigerated for 24 h. The solution was then extracted with 150 mL of ether (3×) and the extract was washed with 100 mL of saturated aqueous sodium chloride. The extract was dried over anhydrous magnesium sulfate, filtered, and concentrated to afford 19.5 g (65%) of a pale yellow oil. The crude product was taken to the next step. 1H-NMR (300 MHz, CDCl3): δ 3.91 (s, 1H), 1.01 (s, 9H).

reactant | L-tert-leucine | 0.229 mol, 30.0 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | sodium nitrite | 0.343 mol, 23.7 g | N(=O)[O-].[Na+]
solvent | sulfuric acid | 1 N, 345 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 83 mL | O | H2O
product | (S)-2-hydroxy-3,3-dimethylbutanoic Acid | 19.5 g, 65% | O[C@H](C(=O)O)C(C)(C)C | C6H12O3
